** Generated for: hspiceD
** Generated on: Apr 29 13:46:54 2025
** Design library name: OpenRAM_cells
** Design cell name: ADO_PCH_BL_HK
** Design view name: schematic


.TEMP 25
.OPTION
+    ARTIST=2
+    INGOLD=2
+    PARHIER=LOCAL
+    PSF=2
+    HIER_DELIM=0
.LIB "/lscratch/TSMC28HPC+/TSMC28nm/models/hspice/toplevel.l" TOP_TT

** Library name: OpenRAM_cells
** Cell name: ADO_PCH_BL_HK
** View name: schematic
xm1 bl pchb vdd vdd pch_mac l=30e-9 w=1.36e-6 multi=1 nf=8 sd=100e-9 ad=68e-15 as=76.5e-15 pd=2.16e-6 ps=2.6e-6 nrd=246.184e-3 nrs=246.184e-3 sa=295.835e-9 sb=295.835e-9 sa1=149.315e-9 sa2=274.565e-9 sa3=507.343e-9 sa4=281.096e-9 sb1=149.315e-9 sb2=274.565e-9 sb3=507.343e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=142.36e-9 sapb=158.808e-9 spba=115.715e-9 spba1=117.043e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
xm0 blb pchb vdd vdd pch_mac l=30e-9 w=1.36e-6 multi=1 nf=8 sd=100e-9 ad=68e-15 as=76.5e-15 pd=2.16e-6 ps=2.6e-6 nrd=246.184e-3 nrs=246.184e-3 sa=295.835e-9 sb=295.835e-9 sa1=149.315e-9 sa2=274.565e-9 sa3=507.343e-9 sa4=281.096e-9 sb1=149.315e-9 sb2=274.565e-9 sb3=507.343e-9 spa=100e-9 spa1=100e-9 spa2=100e-9 spa3=100e-9 sap=142.36e-9 sapb=158.808e-9 spba=115.715e-9 spba1=117.043e-9 dfm_flag=0 spmt=1.11111e15 spomt=0 spomt1=1.11111e60 spmb=1.11111e15 spomb=0 spomb1=1.11111e60
.END
